US06869954B2
Preparation of 2-cyclopropylmethyl-6-(3-fluoro-4-methoxyphenyl)-4-(4-methyl-1-piperazinyl)methyl-2H-pyridazin-3-one
Following the procedure of Example 1(10), 2-cyclopropylmethyl-6-(3-fluoro-4-methoxyphenyl)-4-methane-sulfonyloxymethyl-2H-pyridazin-3-one and 1-methylpiperazine were reacted to yield the title compound as a yellow oil (yield: 73.8%).

reactant | 2-cyclopropylmethyl-6-(3-fluoro-4-methoxyphenyl)-4-methane-sulfonyloxymethyl-2H-pyridazin-3-one | C1(CC1)CN1N=C(C=C(C1=O)COS(=O)(=O)C)C1=CC(=C(C=C1)OC)F | C17H19FN2O5S
reactant | 1-methylpiperazine | CN1CCNCC1 | C5H12N2
product | 2-cyclopropylmethyl-6-(3-fluoro-4-methoxyphenyl)-4-(4-methyl-1-piperazinyl)methyl-2H-pyridazin-3-one | yield: 73.8% | C1(CC1)CN1N=C(C=C(C1=O)CN1CCN(CC1)C)C1=CC(=C(C=C1)OC)F | C21H27FN4O2
